US08466199B2
3-Propoxy-benzoic acid (Compound 24)
Under N2, the mixture of ethyl 3-hydroxybenzoate (4.16 g, 25 mmol), propyl bromide (4.31 g, 3.2 ml, 35 mmol) and potassium carbonate (4.15 g, 30 mmol) in dry 2-butanone (100 ml) was heated to reflux for 48 h. After the reaction mixture cooled down to 25° C., the suspended inorganic salt was removed by filtration. The concentration of the resulting solution by rotary evaporation yielded pale yellowish syrup, which was then mixed with 2N NaOH (18 ml, 36 mmol) and EtOH (30 ml). After this mixture was stirred for 2 h at 50° C., ethanol was removed at reduced pressure. The aqueous solution was acidified by 6N HCl to pH 2 at 5° C. to generate white precipitate, which was then collected by filtration. The recrystallization of this crude product from hexane/ether yielded pure 3-Propoxy-benzoic acid as colorless crystal (3.77 g, 83.7%). 1H-NMR (400 MHz, d6-DMSO): 7.43 (m, 1 arom. H); 7.34 (m, 2 arom. H); 7.08 (m, 1 arom. H); 3.88 (t, CH3CH2CH2O); 1.65 (m, CH3CH2CH2O); 0.88 (t, CH3CH2CH2O). 13C-NMR (100 MHz, d6-DMSO): 167.12 (—C═O); 158.63; 132.12; 129.68; 121.41; 119.33; 114.41; 69.09; 21.95; 10.32.

reactant | ethyl 3-hydroxybenzoate | 25 mmol, 4.16 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | propyl bromide | 35 mmol, 3.2 ml, 4.31 g | C(CC)Br | C3H7Br
reactant | potassium carbonate | 30 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 36 mmol, 2N, 18 ml | [OH-].[Na+]
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
solvent | EtOH | 30 ml | CCO | C2H6O
product | 3-Propoxy-benzoic acid | C(CC)OC=1C=C(C(=O)O)C=CC1 | C10H12O3
